US04080275
N-iso-butylamine was reacted with p-benzoylbenzoic acid chloride to provide N-iso-butyl-p-benzoyl benzamide. At a 4% by weight loading in the test solution described in Example 1, a cure rate of 7.5 - 10 ft./min./lamp was observed for several samples.

reactant | N-iso-butylamine | C(C(C)C)N | C4H11N
reactant | p-benzoylbenzoic acid chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | N-iso-butyl-p-benzoyl benzamide | C(C(C)C)NC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H19NO2
